US09388189B2
(S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-2-ethylpyridin-3-yl)-4-hydroxybenzenesulfonamide
(S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-2-ethylpyridin-3-yl)-4-methoxybenzenesulfonamide (146 mg, 0.22 mmol) was treated with boron tribromide (1M in dichloromethane, 700 μl, 0.70 mmol) in dichloromethane (1 ml) as a solvent according to the method described in Example 23. The residue was purified by reverse phase chromatography using SP1® Purification System to give 31 mg (22% yield) as a solid. Purity 100%.

reactant | (S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-2-ethylpyridin-3-yl)-4-methoxybenzenesulfonamide | 0.22 mmol, 146 mg | NC1=NC=NC(=C1C=1C=C(C(=NC1)CC)NS(=O)(=O)C1=CC=C(C=C1)OC)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C33H33N9O4S
reactant | boron tribromide | 0.70 mmol, 1M, 700 μl | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | (S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-2-ethylpyridin-3-yl)-4-hydroxybenzenesulfonamide | 22% yield | NC1=NC=NC(=C1C=1C=C(C(=NC1)CC)NS(=O)(=O)C1=CC=C(C=C1)O)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C32H31N9O4S
